US08975400B2
tert-butyl 7-((4-(3-cyanophenoxy)-3-(trifluoromethyl)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate
The title compound was prepared by a procedure similar to that described for E1 starting from NaH, 3-(4-(hydroxymethyl)-2-(trifluoromethyl)phenoxy)benzonitrile and tert-butyl-7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate.

reactant | NaH | [H-].[Na+]
reactant | 3-(4-(hydroxymethyl)-2-(trifluoromethyl)phenoxy)benzonitrile | OCC1=CC(=C(OC=2C=C(C#N)C=CC2)C=C1)C(F)(F)F | C15H10F3NO2
reactant | tert-butyl-7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | C(C)(C)(C)OC(=O)N1CCN2C(N=C(C=C21)Cl)=O | C11H14ClN3O3
product | tert-butyl 7-((4-(3-cyanophenoxy)-3-(trifluoromethyl)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | C(#N)C=1C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4C(=O)OC(C)(C)C)C=C2)C(F)(F)F)C=CC1 | C26H23F3N4O5
